US07618961B2
Ethyl oxo(2-{[(2,4,6-trichlorophenyl)sulfonyl]amino}-1,3-thiazol-4-yl)acetate
The title compound was prepared from ethyl (2-amino-4-thiazolyl)glyoxylate and 2,4,6-trichlorobenzenesulfonyl chloride as described in the synthetic METHOD B to give a yellow solid (18.3 mg) with purity >80%. LCMS (pos) m/z 445.0.

reactant | ethyl (2-amino-4-thiazolyl)glyoxylate | NC=1SC=C(N1)C(C(=O)OCC)=O | C7H8N2O3S
reactant | 2,4,6-trichlorobenzenesulfonyl chloride | ClC1=C(C(=CC(=C1)Cl)Cl)S(=O)(=O)Cl | C6H2Cl4O2S
product | Ethyl oxo(2-{[(2,4,6-trichlorophenyl)sulfonyl]amino}-1,3-thiazol-4-yl)acetate | O=C(C(=O)OCC)C=1N=C(SC1)NS(=O)(=O)C1=C(C=C(C=C1Cl)Cl)Cl | C13H9Cl3N2O5S2
